US06852731B2
2-(methylamino)-1-(3,4,5-trifluorophenyl)ethanol
To a solution of methylamine (20 mL, 2.0 M in methanol, 40 mmol) was added 2-(3,4,5-trifluorophenyl)oxirane (0.17 g, 0.98 mmol) at room temperature. The reaction mixture was stirred at that temperature for 24 hours. Solvent and excessive methylamine were evaporated, leaving a solid. The solid was dissolved in dichloromethane (5 mL). To the resulting clear solution was added hexanes (15 mL), standing overnight. The solid precipitant was collected by filtration to yield the title compound (0.14 g) as a white solid.

reactant | methylamine | 40 mmol, 2.0 M, 20 mL | CN | CH5N
reactant | 2-(3,4,5-trifluorophenyl)oxirane | 0.98 mmol, 0.17 g | FC=1C=C(C=C(C1F)F)C1OC1 | C8H5F3O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(methylamino)-1-(3,4,5-trifluorophenyl)ethanol | 0.14 g | CNCC(O)C1=CC(=C(C(=C1)F)F)F | C9H10F3NO
